** Name: SymmetricalOpAmp14

.MACRO SymmetricalOpAmp14 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=113e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=31e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=113e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=201e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=2e-6 W=201e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=326e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=326e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=347e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=347e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=211e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=1e-6 W=315e-6
mNormalTransistorPmos13 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=2e-6 W=201e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=211e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=556e-6
mNormalTransistorPmos16 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=201e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp14

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 10.1431 mW
** Area: 4517 (mu_m)^2
** Transit frequency: 87.3831 MHz
** Transit frequency with error factor: 87.383 MHz
** Slew rate: 130.606 V/mu_s
** Phase margin: 60.1606°
** CMRR: 142 dB
** negPSRR: 51 dB
** posPSRR: 80 dB
** VoutMax: 3.22001 V
** VoutMin: 0.300001 V
** VcmMax: 3.99001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -245.994 muA
** DiodeTransistorNmos: 217.1 muA
** DiodeTransistorNmos: 217.1 muA
** NormalTransistorPmos: -434.199 muA
** NormalTransistorPmos: -217.099 muA
** NormalTransistorPmos: -217.099 muA
** NormalTransistorNmos: 660.907 muA
** NormalTransistorNmos: 660.906 muA
** NormalTransistorPmos: -660.906 muA
** DiodeTransistorPmos: -660.907 muA
** DiodeTransistorPmos: -667.581 muA
** NormalTransistorPmos: -667.582 muA
** NormalTransistorNmos: 667.582 muA
** NormalTransistorNmos: 667.581 muA
** DiodeTransistorNmos: 245.995 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.22801  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.710001  V
** inSourceStageBiasComplementarySecondStage: 3.82701  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.65401  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.30301  V
** innerTransconductance: 0.150001  V
** inner: 3.82501  V
** inner: 0.150001  V


.END