** Name: SymmetricalOpAmp5

.MACRO SymmetricalOpAmp5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=23e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=23e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=85e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=13e-6
mDiodeTransistorPmos5 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=90e-6
mNormalTransistorNmos6 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=334e-6
mNormalTransistorNmos7 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=71e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=71e-6
mNormalTransistorPmos9 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=547e-6
mNormalTransistorPmos10 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=597e-6
mNormalTransistorPmos11 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=94e-6
mNormalTransistorPmos12 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=547e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=299e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=375e-6
mNormalTransistorPmos15 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=468e-6
mNormalTransistorPmos16 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=468e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp5

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 11.8141 mW
** Area: 9623 (mu_m)^2
** Transit frequency: 83.0011 MHz
** Transit frequency with error factor: 83.0008 MHz
** Slew rate: 90.4414 V/mu_s
** Phase margin: 61.3065°
** CMRR: 102 dB
** negPSRR: 54 dB
** posPSRR: 192 dB
** VoutMax: 4.25 V
** VoutMin: 0.270001 V
** VcmMax: 3.80001 V
** VcmMin: 0.110001 V


** Expected Currents: 
** NormalTransistorNmos: 913.806 muA
** NormalTransistorPmos: -234.401 muA
** DiodeTransistorNmos: 146.992 muA
** DiodeTransistorNmos: 146.992 muA
** NormalTransistorPmos: -293.982 muA
** NormalTransistorPmos: -146.991 muA
** NormalTransistorPmos: -146.991 muA
** NormalTransistorNmos: 453.757 muA
** NormalTransistorPmos: -453.756 muA
** NormalTransistorPmos: -453.757 muA
** NormalTransistorPmos: -446.751 muA
** NormalTransistorPmos: -446.752 muA
** NormalTransistorNmos: 446.752 muA
** DiodeTransistorNmos: 234.402 muA
** DiodeTransistorPmos: -913.805 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.97001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inTransconductanceComplementarySecondStage: 0.679001  V
** innerComplementarySecondStage: 4.20401  V
** out: 2.5  V
** outFirstStage: 0.679001  V
** outVoltageBiasXXnXX0: 0.807001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.23701  V
** innerStageBias: 4.76801  V
** inner: 4.45401  V


.END