** Name: SymmetricalOpAmp7

.MACRO SymmetricalOpAmp7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=259e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=259e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=22e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=339e-6
mDiodeTransistorPmos7 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=171e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=171e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=260e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=455e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=455e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=529e-6
mNormalTransistorPmos14 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=2e-6 W=78e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos16 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=529e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=582e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=339e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp7

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 14.9991 mW
** Area: 7936 (mu_m)^2
** Transit frequency: 84.1381 MHz
** Transit frequency with error factor: 84.1378 MHz
** Slew rate: 172.269 V/mu_s
** Phase margin: 69.328°
** CMRR: 143 dB
** negPSRR: 44 dB
** posPSRR: 50 dB
** VoutMax: 4.33001 V
** VoutMin: 0.390001 V
** VcmMax: 3.68001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 99.5231 muA
** NormalTransistorPmos: -8.49899 muA
** NormalTransistorPmos: -131.782 muA
** DiodeTransistorNmos: 494.688 muA
** DiodeTransistorNmos: 494.688 muA
** NormalTransistorPmos: -989.375 muA
** NormalTransistorPmos: -494.687 muA
** NormalTransistorPmos: -494.687 muA
** NormalTransistorNmos: 875.359 muA
** NormalTransistorNmos: 875.358 muA
** NormalTransistorPmos: -875.358 muA
** NormalTransistorPmos: -875.359 muA
** DiodeTransistorPmos: -875.358 muA
** NormalTransistorNmos: 875.359 muA
** NormalTransistorNmos: 875.358 muA
** DiodeTransistorNmos: 8.49801 muA
** DiodeTransistorNmos: 131.783 muA
** DiodeTransistorPmos: -99.5239 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.00201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.800001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.05401  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.556001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.38601  V
** innerStageBias: 4.53501  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END