** Name: SymmetricalOpAmp8

.MACRO SymmetricalOpAmp8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=34e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=131e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=131e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=475e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=2e-6 W=212e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=125e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=125e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=353e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=353e-6
mNormalTransistorPmos11 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=1e-6 W=564e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=593e-6
mNormalTransistorPmos13 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=203e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=593e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=590e-6
mNormalTransistorPmos16 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=475e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp8

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 11.7251 mW
** Area: 7520 (mu_m)^2
** Transit frequency: 98.1391 MHz
** Transit frequency with error factor: 98.1388 MHz
** Slew rate: 133.48 V/mu_s
** Phase margin: 60.7336°
** CMRR: 142 dB
** negPSRR: 47 dB
** posPSRR: 53 dB
** VoutMax: 3.43001 V
** VoutMin: 0.400001 V
** VcmMax: 4 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -472.15 muA
** DiodeTransistorNmos: 250.744 muA
** DiodeTransistorNmos: 250.744 muA
** NormalTransistorPmos: -501.487 muA
** NormalTransistorPmos: -250.743 muA
** NormalTransistorPmos: -250.743 muA
** NormalTransistorNmos: 672.335 muA
** NormalTransistorNmos: 672.334 muA
** NormalTransistorPmos: -672.334 muA
** NormalTransistorPmos: -672.335 muA
** DiodeTransistorPmos: -679.124 muA
** DiodeTransistorPmos: -679.125 muA
** NormalTransistorNmos: 679.125 muA
** NormalTransistorNmos: 679.124 muA
** DiodeTransistorNmos: 472.151 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21901  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.808001  V
** inSourceStageBiasComplementarySecondStage: 4.03701  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.87201  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.28101  V
** innerStageBias: 4.04201  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END