** Name: SymmetricalOpAmp92

.MACRO SymmetricalOpAmp92 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=10e-6 W=10e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=310e-6
mNormalTransistorNmos4 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos5 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=235e-6
mNormalTransistorNmos6 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=235e-6
mNormalTransistorNmos7 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=20e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=20e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=53e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=461e-6
mNormalTransistorPmos13 out innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=310e-6
mNormalTransistorPmos14 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=461e-6
mNormalTransistorPmos15 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=10e-6 W=512e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=10e-6 W=383e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp92

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 9.71101 mW
** Area: 11693 (mu_m)^2
** Transit frequency: 105.524 MHz
** Transit frequency with error factor: 105.523 MHz
** Slew rate: 100.173 V/mu_s
** Phase margin: 66.4632°
** CMRR: 95 dB
** negPSRR: 66 dB
** posPSRR: 111 dB
** VoutMax: 4.70001 V
** VoutMin: 0.740001 V
** VcmMax: 3.53001 V
** VcmMin: 0.0200001 V


** Expected Currents: 
** NormalTransistorPmos: -519.853 muA
** NormalTransistorNmos: 194.438 muA
** NormalTransistorNmos: 194.437 muA
** NormalTransistorNmos: 194.438 muA
** NormalTransistorNmos: 194.437 muA
** NormalTransistorPmos: -388.874 muA
** NormalTransistorPmos: -194.437 muA
** NormalTransistorPmos: -194.437 muA
** NormalTransistorNmos: 506.725 muA
** NormalTransistorNmos: 506.726 muA
** NormalTransistorPmos: -506.724 muA
** DiodeTransistorPmos: -506.724 muA
** NormalTransistorNmos: 506.725 muA
** NormalTransistorNmos: 506.726 muA
** DiodeTransistorNmos: 519.854 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.68601  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.990001  V
** innerComplementarySecondStage: 4.13301  V
** out: 2.5  V
** out1FirstStage: 0.990001  V
** out2FirstStage: 1.14901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.585001  V
** innerTransistorStack2Load1: 0.585001  V
** sourceTransconductance: 3.21701  V
** innerTransconductance: 0.585001  V
** inner: 0.585001  V


.END